US05532235
8-[(Dimethylamino)methylene]-5,6,7,8-tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b]azepin-9-one
As described for Reference Example 221, 5,6,7,8-tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b] azepin-9-one is reacted with tert-butoxybis(dimethylamino)methane to give the product as a solid.

reactant | 5,6,7,8-tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b] azepin-9-one | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)=O)N=CC=C3)C=C1 | C16H13N3O4
reactant | tert-butoxybis(dimethylamino)methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 8-[(Dimethylamino)methylene]-5,6,7,8-tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b]azepin-9-one | CN(C)C=C1C(C2=C(N(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C=CC=N2)=O | C19H18N4O4
